US09382228B2
A solution of 4-methyl-5-((2-(4-methyl-1H-imidazol-1-yl)pyridin-4-yl)oxy)-2-nitropyridine (2.5 g, 8.03 mmol) in MeOH (40 mL) and THF (20 mL) was treated with 10% Pd/C (50% w/w water, 0.855 g, 0.8 mmol) and hydrogenated (50 psi) for 24 h. The solids were removed via filtration through diatomaceous earth, washed with MeOH and the filtrate concentrated to dryness. The residue was stirred with 60% EtOAc/Hex for 15 min. The suspension was collected by filtration, washed with 60% EtOAc/Hex, and dried in vacuo to afford 4-methyl-5-((2-(4-methyl-1H-imidazol-1-yl)pyridin-4-yl)oxy)pyridin-2-amine (1.75 g, 77%). 1H NMR (400 MHz, DMSO-d6): δ 8.38 (d, J=1.3 Hz, 1H), 8.27 (d, J=5.8 Hz, 1H), 7.72 (s, 1H), 7.62 (s, 1H), 7.30 (d, J=2.2 Hz, 1H), 6.62 (dd, J=5.8, 2.2 Hz, 1H), 6.39 (s, 1H), 5.94 (s, 2H), 2.13 (s, 3H), 1.96 (s, 3H); MS (ESI) m/z: 282.2 (M+H+).

reactant | 4-methyl-5-((2-(4-methyl-1H-imidazol-1-yl)pyridin-4-yl)oxy)-2-nitropyridine | 8.03 mmol, 2.5 g | CC1=CC(=NC=C1OC1=CC(=NC=C1)N1C=NC(=C1)C)[N+](=O)[O-] | C15H13N5O3
solvent | MeOH | 40 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.8 mmol, 0.855 g | [Pd] | Pd
product | 4-methyl-5-((2-(4-methyl-1H-imidazol-1-yl)pyridin-4-yl)oxy)pyridin-2-amine | 1.75 g, 77% | CC1=CC(=NC=C1OC1=CC(=NC=C1)N1C=NC(=C1)C)N | C15H15N5O
